USRE038796E1
Production of N,N-dibenzyl-L-phenylalanine benzyl ester (Ia)
Twenty-five grams (151.3 mmol) of (L)-phenylalanine and 66.67 g (482.4 mmol) of potassium carbonate were dissolved in 100 ml of water, and 57.51 g (454.3 mmol) of benzyl chloride were added thereto. The mixture was heat-stirred at 95° C. for 19 hours. After the reaction mixture was cooled to room temperature, 67 ml of n-heptane and 50 ml of water were added thereto. The organic layer was washed twice with 50 ml of a mixture of methanol and water at a volume ratio of 1:2 and was then dried over anhydrous sodium sulfate. The dried substance was filtered and concentrated to give 61.64 g (90%, 121.8 mmol) of the above-mentioned compound (Ia) in a yield of 84.7%.

reactant | (L)-phenylalanine | 151.3 mmol, Twenty-five grams | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | potassium carbonate | 482.4 mmol, 66.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 454.3 mmol, 57.51 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | n-heptane | 67 ml | CCCCCCC | C7H16
solvent | water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | N,N-dibenzyl-L-phenylalanine benzyl ester | 121.8 mmol, 61.64 g, 90% | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=CC=C1)CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C30H29NO2
